US07262212B2
A mixture of 8-(4-trifluoromethoxyphenyl)-1,4-dioxa-8-azaspiro[4.5]decane (1.23 g, 4.06 mmol) prepared in Reference Example 21, concentrated hydrochloric acid (5 ml), water (10 ml), and ethanol (30 ml) was heated under reflux for 5 hours. The reaction mixture was allowed to return to room temperature and concentrated under reduced pressure. To the residue, 10% sodium hydroxide aqueous solution was added, and the mixture was extracted with methylene chloride. The extract was washed with water and brine, and dried over magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=3/1) to afford 1-(4-trifluoromethoxyphenyl)piperidin-4-one (848 mg, yield 81%) as a colorless oil.

reactant | 8-(4-trifluoromethoxyphenyl)-1,4-dioxa-8-azaspiro[4.5]decane | 4.06 mmol, 1.23 g | FC(OC1=CC=C(C=C1)N1CCC2(OCCO2)CC1)(F)F | C14H16F3NO3
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | water | 10 ml | O | H2O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(4-trifluoromethoxyphenyl)piperidin-4-one | 848 mg, yield 81% | FC(OC1=CC=C(C=C1)N1CCC(CC1)=O)(F)F | C12H12F3NO2
